US07799804B2
2-(2,4-Dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-1H-imidazole-4-carboxylic acid piperidin-1-ylamide
1-(4-Benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid piperidin-1-ylamide, from Ex. 1, Step 4 (2.78 g, 5.2 mmol) was dissolved in 80 ml CH2Cl2 and cooled to 0° C. Boron tribromide solution (1 M in CH2Cl2, 10.4 ml, 10.4 mmol) was added dropwise and the reaction mixture was stirred at room temperature for 1 hour. Water (200 ml) was added and the solution extracted with EtOAc (3×200 ml). The combined organic phases were dried (Na2SO4), filtered and concentrated. Flash chromatography (silica, hexane:EtOAc 1:3, EtOAc) afforded 1.34 g (58%) of the title compound as a white solid.

reactant | 1-(4-Benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C29H28Cl2N4O2
reactant | Boron tribromide | 10.4 mmol, 1 M, 10.4 ml | B(Br)(Br)Br | BBr3
reactant | Water | 200 ml | O | H2O
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,4-Dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | 1.34 g, 58% | N1(CCCCC1)NC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)O)C1=C(C=C(C=C1)Cl)Cl | C22H22Cl2N4O2
